US07662972B2
4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylsulfonyl-N-(2,2,2-trifluoroethyl)benzoic acid amide (Compound of the Present Invention No. 5-326)
In a solution of 0.25 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylthio-N-(2,2,2-trifluoroethyl)benzoic acid amide (Compound of the present invention No. 5-322) synthesized similarly to Synthetic Example 13 in 6 ml of dichloromethane, 0.17 g of 3-chloroperbenzoic acid was added with stirring at room temperature, and stirred at the same temperature for 3 days. After the completion of the reaction, the reaction mixture was poured in 30 ml of sodium thiosulfate aqueous solution, and extracted with chloroform (10 ml×3). The organic phase was dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with chloroform, and 0.20 g of the aimed product was obtained as colorless oily substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylthio-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.25 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC(F)(F)F)C=C1)SC)C(F)(F)F | C20H14Cl2F6N2O2S
reactant | 3-chloroperbenzoic acid | 0.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 30 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylsulfonyl-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.20 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC(F)(F)F)C=C1)S(=O)(=O)C)C(F)(F)F | C20H14Cl2F6N2O4S
